US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (500 mg, 2.259 mmol) in THF (4.52 ml) at −78° C. was added dropwise tert-butyllithium 1.7 M in pentane (1.59 ml, 2.71 mmol) and the solution was stirred for 0.5 h before addition of 4-fluorobenzonitrile (274 mg, 2.259 mmol) in THF (4.52 ml). The resulting solution was warmed to RT and stirred for 16 h. The reaction mixture was quenched with water, neutralized with 1 N HCl. The precipitated solid was collected and washed with water to give 3-(4-fluorophenyl)-6-methoxyisoquinolin-1-ol (350 mg, 58% yield) as a solid after drying.

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 2.259 mmol, 500 mg | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 2.71 mmol, 1.59 ml | CCCCC | C5H12
reactant | 4-fluorobenzonitrile | 2.259 mmol, 274 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | THF | 4.52 ml | C1CCOC1 | C4H8O
solvent | THF | 4.52 ml | C1CCOC1 | C4H8O
product | 3-(4-fluorophenyl)-6-methoxyisoquinolin-1-ol | 350 mg, 58% yield | FC1=CC=C(C=C1)C=1N=C(C2=CC=C(C=C2C1)OC)O | C16H12FNO2
